*==============================================
*IGBT Pinout: 1=C, 2=G, 3=E
*Copyright (c) 1997 MicroCode Engineering, Inc.
*All Rights Reserved
*==============================================

*PIGBT
*P-IGBT Default  MCE  C G E  5-20-95
*MCE 600V 40A 24.3ns pkg:TO-220
.SUBCKT PIGBT 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 81 83  DO
DBE 81 85  DE
RC  85 71  21.2M
RE  83 73  2.12M
RG  72 82  25.5
CGE 82 83  1.42N
CGC 82 71  1P
EGD 91  0 81 82  1
VFB 93  0  0
FFB 81 82  VFB  1
CGD 92 93  1.41N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 81 83  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT NPN (IS=377F NF=1.2 BF=5.1 CJE=3.48N TF=24.3N XTB=1.3)
.MODEL MFIN PMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=-5.2 KP=2.12)
.MODEL DR D (IS=37.7F CJO=100P VJ=1 M=.82)
.MODEL DO D (IS=37.7F BV=600 CJO=2.07N VJ=1 M=.7)
.MODEL DE D (IS=37.7F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS PIGBT

*IRGBC20S  MCE  C G E  7-13-95
*600V 19A 16.8ns pkg:TO-220 2,1,3
.SUBCKT IRGBC20S 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  22.2M
RE  83 73  2.22M
RG  72 82  41.5
CGE 82 83  675P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  670P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=23.4P NF=1.2 BF=5.1 CJE=1.64N TF=16.8N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=1)
.MODEL DR D (IS=2.34P CJO=47.8P VJ=1 M=.82)
.MODEL DO D (IS=2.34P BV=600 CJO=979P VJ=1 M=.7)
.MODEL DE D (IS=2.34P BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC20S

*IRGBC30S  MCE  C G E  7-13-95
*600V 34A 22.4ns pkg:TO-220 2,1,3
.SUBCKT IRGBC30S 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  11.2M
RE  83 73  1.12M
RG  72 82  28.5
CGE 82 83  1.2N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.19N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=68.3P NF=1.2 BF=5.1 CJE=2.96N TF=22.4N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=1.8)
.MODEL DR D (IS=6.83P CJO=85.6P VJ=1 M=.82)
.MODEL DO D (IS=6.83P BV=600 CJO=1.76N VJ=1 M=.7)
.MODEL DE D (IS=6.83P BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC30S 

*IRGBC40S  MCE  C G E  7-13-95
*600V 50A 27.2ns pkg:TO-220 2,1,3
.SUBCKT IRGBC40S 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  6.77M
RE  83 73  677U
RG  72 82  21.7
CGE 82 83  1.77N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.76N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=163P NF=1.2 BF=5.1 CJE=4.35N TF=27.2N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=2.65)
.MODEL DR D (IS=16.3P CJO=125P VJ=1 M=.82)
.MODEL DO D (IS=16.3P BV=600 CJO=2.59N VJ=1 M=.7)
.MODEL DE D (IS=16.3P BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC40S 

*IRGBC20F  MCE  C G E  7-13-95
*600V 16A 15.4ns pkg:TO-220 2,1,3
.SUBCKT IRGBC20F 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  47.6M
RE  83 73  4.76M
RG  72 82  46.1
CGE 82 83  568P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  564P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=400F NF=1.2 BF=5.1 CJE=1.38N TF=15.4N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=.849)
.MODEL DR D (IS=40F CJO=40.3P VJ=1 M=.82)
.MODEL DO D (IS=40F BV=600 CJO=823P VJ=1 M=.7)
.MODEL DE D (IS=40F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC20F 

*IRGBC30F  MCE  C G E  7-13-95
*600V 31A 21.4ns pkg:TO-220 2,1,3
.SUBCKT IRGBC30F 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  15M
RE  83 73  1.5M
RG  72 82  30.3
CGE 82 83  1.1N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.09N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=23.5P NF=1.2 BF=5.1 CJE=2.69N TF=21.4N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=1.64)
.MODEL DR D (IS=2.35P CJO=78P VJ=1 M=.82)
.MODEL DO D (IS=2.35P BV=600 CJO=1.6N VJ=1 M=.7)
.MODEL DE D (IS=2.35P BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC30F 

*IRGBC40F  MCE  C G E  7-13-95
*600V 49A 26.9ns pkg:TO-220 2,1,3
.SUBCKT IRGBC40F 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  8.64M
RE  83 73  864U
RG  72 82  22.1
CGE 82 83  1.74N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.72N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=60.5P NF=1.2 BF=5.1 CJE=4.27N TF=26.9N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=2.6)
.MODEL DR D (IS=6.05P CJO=123P VJ=1 M=.82)
.MODEL DO D (IS=6.05P BV=600 CJO=2.54N VJ=1 M=.7)
.MODEL DE D (IS=6.05P BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC40F 

*IRGBF20F  MCE  C G E  7-13-95
*900V  9A 11.5ns pkg:TO-220 2,1,3
.SUBCKT IRGBF20F 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  .155
RE  83 73  15.5M
RG  72 82  64.9
CGE 82 83  319P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  317P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=.15F NF=1.2 BF=5.1 CJE=775P TF=11.5N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=552K THETA=46.1M ETA=1.33M VTO=5.2 KP=.453)
.MODEL DR D (IS=1.50E-17 CJO=22.6P VJ=1 M=.82)
.MODEL DO D (IS=1.50E-17 BV=900 CJO=458P VJ=1 M=.7)
.MODEL DE D (IS=1.50E-17 BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBF20F 

*IRGBF30F  MCE  C G E  7-13-95
*900V 20A 17.2ns pkg:TO-220 2,1,3
.SUBCKT IRGBF30F 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  57.2M
RE  83 73  5.72M
RG  72 82  40.2
CGE 82 83  711P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  705P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=6.23F NF=1.2 BF=5.1 CJE=1.73N TF=17.2N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=552K THETA=46.1M ETA=1.33M VTO=5.2 KP=1)
.MODEL DR D (IS=.623F CJO=50.3P VJ=1 M=.82)
.MODEL DO D (IS=.623F BV=900 CJO=1.03N VJ=1 M=.7)
.MODEL DE D (IS=.623F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBF30F 

*IRGBH50F  MCE  C G E  7-13-95
*1200V 50A 27.2ns pkg:TO-247 2,1,3
.SUBCKT IRGBH50F 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  10.1M
RE  83 73  1.01M
RG  72 82  21.7
CGE 82 83  1.77N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.76N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=23.3P NF=1.2 BF=5.1 CJE=4.35N TF=27.2N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=705K THETA=46.1M ETA=1M VTO=5.2 KP=2.44)
.MODEL DR D (IS=2.33P CJO=125P VJ=1 M=.82)
.MODEL DO D (IS=2.33P BV=1.2K CJO=2.59N VJ=1 M=.7)
.MODEL DE D (IS=2.33P BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBH50F 

*IRGB420U  MCE  C G E  7-13-95
*500V 14A 14.4ns pkg:TO-220 2,1,3
.SUBCKT IRGB420U 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  60.5M
RE  83 73  6.05M
RG  72 82  50
CGE 82 83  497P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  493P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=132F NF=1.2 BF=5.1 CJE=1.21N TF=14.4N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=349K THETA=46.1M ETA=2.4M VTO=5.2 KP=.762)
.MODEL DR D (IS=13.2F CJO=35.2P VJ=1 M=.82)
.MODEL DO D (IS=13.2F BV=500 CJO=718P VJ=1 M=.7)
.MODEL DE D (IS=13.2F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGB420U 

*IRGB430U  MCE  C G E  7-13-95
*500V 25A 19.2ns pkg:TO-220 2,1,3
.SUBCKT IRGB430U 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  33.9M
RE  83 73  3.39M
RG  72 82  34.9
CGE 82 83  889P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  881P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=236F NF=1.2 BF=5.1 CJE=2.17N TF=19.2N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=349K THETA=46.1M ETA=2.4M VTO=5.2 KP=1.36)
.MODEL DR D (IS=23.6F CJO=62.9P VJ=1 M=.82)
.MODEL DO D (IS=23.6F BV=500 CJO=1.29N VJ=1 M=.7)
.MODEL DE D (IS=23.6F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGB430U 

*IRGB440U  MCE  C G E  7-13-95
*500V 40A 24.3ns pkg:TO-220 2,1,3
.SUBCKT IRGB440U 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  21.1M
RE  83 73  2.11M
RG  72 82  25.5
CGE 82 83  1.42N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.41N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=377F NF=1.2 BF=5.1 CJE=3.48N TF=24.3N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=349K THETA=46.1M ETA=2.4M VTO=5.2 KP=2.17)
.MODEL DR D (IS=37.7F CJO=100P VJ=1 M=.82)
.MODEL DO D (IS=37.7F BV=500 CJO=2.07N VJ=1 M=.7)
.MODEL DE D (IS=37.7F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGB440U 

*IRGBC20U  MCE  C G E  7-13-95
*600V 13A 13.8ns pkg:TO-220 2,1,3
.SUBCKT IRGBC20U 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  65.2M
RE  83 73  6.52M
RG  72 82  52.3
CGE 82 83  461P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  458P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=122F NF=1.2 BF=5.1 CJE=1.12N TF=13.8N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=.69)
.MODEL DR D (IS=12.2F CJO=32.7P VJ=1 M=.82)
.MODEL DO D (IS=12.2F BV=600 CJO=666P VJ=1 M=.7)
.MODEL DE D (IS=12.2F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC20U 

*IRGBC30U  MCE  C G E  7-13-95
*600V 23A 18.4ns pkg:TO-220 2,1,3
.SUBCKT IRGBC30U 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  36.8M
RE  83 73  3.68M
RG  72 82  36.8
CGE 82 83  817P
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  811P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=217F NF=1.2 BF=5.1 CJE=1.99N TF=18.4N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=1.22)
.MODEL DR D (IS=21.7F CJO=57.9P VJ=1 M=.82)
.MODEL DO D (IS=21.7F BV=600 CJO=1.18N VJ=1 M=.7)
.MODEL DE D (IS=21.7F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC30U 

*IRGBC40U  MCE  C G E  7-13-95
*600V  40A  24.3ns pkg:TO-220 2,1,3
.SUBCKT IRGBC40U 71 72 74
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  21.1M
RE  83 73  2.11M
RG  72 82  25.5
CGE 82 83  1.42N
CGC 82 71  1P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.41N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 13
RLV 95  0  1
ESD 96 93  POLY(1) 83 81  19  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=377F NF=1.2 BF=5.1 CJE=3.48N TF=24.3N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=46.1M ETA=2M VTO=5.2 KP=2.12)
.MODEL DR D (IS=37.7F CJO=100P VJ=1 M=.82)
.MODEL DO D (IS=37.7F BV=600 CJO=2.07N VJ=1 M=.7)
.MODEL DE D (IS=37.7F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS IRGBC40U 
**********
